US04060615
A mixture of 4-amino-2-methylmercapto-6,7-dimethoxyquinazoline (0.1 mole) and from 0.1 to 0.15 mole of N-(cyclopentylcarbonyl)piperazine in 150 ml. of isoamyl alcohol is refluxed for a period of 8 to 24 hours. The solvent is evaporated and residual material, treated according to procedure of Example 1(a), provides 4-amino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline.

reactant | 4-amino-2-methylmercapto-6,7-dimethoxyquinazoline | 0.1 mole | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)SC | C11H13N3O2S
reactant | N-(cyclopentylcarbonyl)piperazine | 0.1 to 0.15 mole | C1(CCCC1)C(=O)N1CCNCC1 | C10H18N2O
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 4-amino-2-[4-(cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1CCCC1 | C20H27N5O3
